US03971650
Preparation of N1 -ethoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -di-n-propylsulfanilamide.
A mixture of 3.6 g (0.01 mol) N1 methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide, 2.2 g (0.02 mol) ethyl chloroformate, 2.8 g (0.02 mol) potassium carbonate, and 50 ml dimethoxyethane was heated at reflux until gas evolution ceased. The reaction mixture was filtered and evaporated under reduced pressure. The residue was recrystallized from ethanol to give 2.5 g of the product, m.p. 104°C (dec.).

reactant | methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide | CC1=C(S(=O)(=O)N)C=C(C(=C1[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-] | C13H20N4O6S
reactant | ethyl chloroformate | 0.02 mol, 2.2 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | N1 -ethoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -di-n-propylsulfanilamide | 2.5 g | C(C)OC(=O)N(S(=O)(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-])=O)C | C16H24N4O8S
